US05929067
(g) 4-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5-diphenyl-pentanoic acid ethyl ester
A solution of 15.0 g (27.3 mmol) of 4-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methylamino]-5,5-diphenyl-pent-2-enoic acid ethyl ester in 400 ml of tetrahydrofuran is hydrogenated with 1.5 g of 10% palladium on activated carbon under 1 atm. of hydrogen. After 4 hours the suspension is filtered over Hyflo and washed with tetrahydrofuran, and the filtrate is concentrated by evaporation. The title compound is obtained in the form of a yellow oil. TLC: ethyl acetate/hexane (1:2) Rf =0.50; Rt (HPLC)=22.4 min; 1H-NMR (400 MHz, d6 -DMSO, 120° C.) d 7.96 (br, 1H), 7.48-7.18 (m, 12H), 5.44 (br, 1H), 4.31 (d, 1H), 4.05 (q, 2H), 2.56 (br s, 3H), 2.44-2.27 (m, 2H), 1.93 (m, 1H), 1.76 (m, 1H), 1.17 (t, 3H); FAB-MS (M+H)+ =552.

reactant | 4-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methylamino]-5,5-diphenyl-pent-2-enoic acid ethyl ester | 27.3 mmol, 15.0 g | C(C)OC(C=CC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C29H25F6NO3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
catalyst | palladium on activated carbon | 1.5 g | [Pd] | Pd
product | 4-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5-diphenyl-pentanoic acid ethyl ester | C(C)OC(CCC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C29H27F6NO3
